US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-2,4-dihydroxybenzenesulfonamide
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-2,4-dimethoxybenzenesulfonamide (108 mg, 0.17 mmol) was treated with boron tribromide (1M in dichloromethane, 0.90 ml, 0.9 mmol) with dichloromethane (20 ml) as a solvent at 100° C. for 2 h under microwave conditions. After evaporation of the solvent and usual workup with ethyl acetate and water, the residue was purified by reverse phase chromatography using SP1® Purification System to give 48 mg (55% yield) as a solid. Purity 99%.

reactant | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-2,4-dimethoxybenzenesulfonamide | 0.17 mmol, 108 mg | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=C(C=C1)OC)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C33H32N8O5S
reactant | boron tribromide | 0.9 mmol, 1M, 0.90 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-2,4-dihydroxybenzenesulfonamide | 55% yield | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=C(C=C1)O)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H28N8O5S
